### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalProperties): constructor for `RingHom.OfLocalizationSpan`

### PR DESCRIPTION
**Pull request by chrisflav**
Adds a constructor for `RingHom.OfLocalizationSpan` where `P (algebraMap (Localization.Away r) (Localization.Away r ⊗[R] S))` has to be shown for a covering family. This is convenient in practice, because the base change API is the more generally applicable framework.

-- -

I think the import increase is fine, but if people are not happy with it, I can instead make a new file `Mathlib.RingTheory.LocalizationAway.BaseChange`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/BaseChange.lean [hunk 1]
```diff
@@ -190,3 +196,41 @@ lemma IsLocalizedModule.map_lTensor (g : M →ₗ[A] M') [h : IsLocalizedModule
...
+    (r : R) (A : Type*) [CommRing A] [Algebra R A]
+
+instance tensor [IsLocalization.Away r A] :
+    IsLocalization.Away (algebraMap R S r) (S ⊗[R] A) := by
+  let _ : Algebra A (S ⊗[R] A) := Algebra.TensorProduct.rightAlgebra
+  simp only [IsLocalization.Away]
+  have : Submonoid.powers (algebraMap R S r) = Algebra.algebraMapSubmonoid S (.powers r) := by
+    simp [Algebra.algebraMapSubmonoid]
+  rw [this, Algebra.isLocalization_iff_isPushout _ A]
+  infer_instance
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/BaseChange.lean:212]: This is more generally true for any submonoid (via `Algebra.algebraMapSubmonoid`) right? Can you separate that into a new lemma?

Comment (erdOne) [reply Mathlib/RingTheory/Localization/BaseChange.lean:212]: Can you also provide `a ⊗t IsLocalization.mk x y = IsLocalization.mk (a ⊗t x) y` (or something like that?)

File: Mathlib/RingTheory/Localization/BaseChange.lean [hunk 2]
```diff
@@ -190,3 +196,41 @@ lemma IsLocalizedModule.map_lTensor (g : M →ₗ[A] M') [h : IsLocalizedModule
...
+
+variable (S) in
+/-- The `S`-isomorphism `S ⊗[R] Rᵣ ≃ₐ Sᵣ`. -/
+noncomputable def tensorEquiv [IsLocalization.Away r A] :
+    S ⊗[R] A ≃ₐ[S] Localization.Away (algebraMap R S r) :=
+  IsLocalization.algEquiv (Submonoid.powers <| algebraMap R S r) _ _
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/BaseChange.lean:218]: I'm not entirely sure if we want a separate def for this.

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 3]
```diff
@@ -885,6 +885,9 @@ lemma comm_comp_includeRight :
 theorem adjoin_tmul_eq_top : adjoin R { t : A ⊗[R] B | ∃ a b, a ⊗ₜ[R] b = t } = ⊤ :=
   top_le_iff.mp <| (top_le_iff.mpr <| span_tmul_eq_top R A B).trans (span_le_adjoin R _)
 
+lemma tmul_comm(r : R) : algebraMap R A r ⊗ₜ[R] 1 = 1 ⊗ₜ algebraMap R B r := by
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:888]:
```suggestion
lemma tmul_comm (r : R) : algebraMap R A r ⊗ₜ[R] 1 = 1 ⊗ₜ algebraMap R B r := by
```
And is this different from `Algebra.TensorProduct.tmul_one_eq_one_tmul`?

Comment (chrisflav) [reply Mathlib/RingTheory/TensorProduct/Basic.lean:888]: No :) Good catch (this happens when PRing things in parallel)

File: Mathlib/RingTheory/Localization/BaseChange.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/BaseChange.lean]: I think we can have it as an `abbrev`? It makes things shorter, so I think it is convenient.

File: Mathlib/RingTheory/Localization/BaseChange.lean [hunk 4]
```diff
@@ -190,3 +196,60 @@ lemma IsLocalizedModule.map_lTensor (g : M →ₗ[A] M') [h : IsLocalizedModule
...
+    IsLocalization.mk'_spec', algebraMap_apply, Algebra.id.map_eq_id, RingHom.id_apply,
+    ← Algebra.smul_def, smul_tmul, Algebra.smul_def, mul_one]
+
+namespace IsLocalization.Away
+
+instance tensor [IsLocalization.Away r A] :
+    IsLocalization.Away (algebraMap R S r) (S ⊗[R] A) := by
+  simp only [IsLocalization.Away]
+  have : Submonoid.powers (algebraMap R S r) = Algebra.algebraMapSubmonoid S (.powers r) := by
+    simp [Algebra.algebraMapSubmonoid]
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/BaseChange.lean:227]: This should be a separate lemma IMO.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
